Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Urinary retention
 
Major Surgical or Invasive Procedure:
Foley replacement

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
.
Date: ___
Time: 2141
_
________________________________________________________________
PCP: 
Name: ___ 
Location: ___ MEDICINE 
Address: ___, ___, 
___ 
Phone: ___ 
Fax: ___ 
_
________________________________________________________________
HPI: 
___ with h/o ETOH, cigar use, who suffered a significant
fall with bifrontal large contusions and also left 
temporoparietal contusion in ___. He was hospitalized for 
6 weeks. He was managed in the ICU for incrased intracranial 
pressure and cerebral edema. He was treated wiht mannitol and 
ICP monitoring. He stabilized, had a PEGtube placed and was 
transferred to ___ on ___. He was re-admitted 
5 days later with a change in mental sattus. He was intubated 
treated for PNA nad pulmonary edema. He also developed atrial 
fibrillation with RVR which was managed with rate control and 
anticoagulation. His G tube was converted to a GJ tube. He 
developed urinary retention so foley was placed and he was 
started on tamuslosin. He voided but with large PVRs thus the 
___ was replaced. He continued to improve and was transferred 
to ___ care. While at rehab he During this  HTN, urinary 
rentention presenting with urinary retention. Went to ___ 
Urgent Care today for suprapubic pain/urinary retention, they 
were unable to place a foley and he was sent to the ED for 
placement. He had a urology appointment with Dr. ___ on the 
day of presentation and his foley was removed in advance of the 
appointment. AT his urology appointment his bladder scan 
demonstrated 916 cc he was unable to void. He was thus sent to 
___ ED.  His urologist was concerned that he has bladder 
outlet obstruction ? from prostate or stricture. 
.
In ER: (Triage Vitals: 97.8| 87 |126/81 |16 |100% RA ) 
Meds Given: Ceftriaxone given in the ED 
Fluids given: None
Radiology Studies: Bedside US which was negative for 
hydronephrosis.
POCUS: >1L in bladder
Attempting coudet placement - successful with >1L output

[x] Cr 0.9
[x] UA - grossly infected

Prostate non-tender. 

Assessment: ADMIT to medicine for urinary retention, UTI, AMS
.
PAIN SCALE: ___ 

REVIEW OF SYSTEMS:
CONSTITUTIONAL:  + 30 lb weight loss sine ___ per pt's 
family
HEENT:  [X] All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  [X] All normal
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above. ROS limited by 
pt being a poor historian secondary to traumatic brain injury
 
Past Medical History:
PMH:
IPH/IVH/___
Ventilator associated pneumonia
Klebsiella UTI
Hypertension
 
Social History:
___
Family History:
Mother and sister with primary biliary sclerosis- per OMR. Pt 
tells me that his mother died of liver failure. 
 
Physical Exam:
Vitals:  
98.1, 125 / 57 Lying 77 16 100 RA 
GEN: NAD, comfortable appearing  
HEENT: Injected conjunctivae b/l 
NECK:  supple
CV: s1s2 rrr, soft holosystolic murmur 
RESP: LLL crackles 
ABD: +bs, soft, NT, ND, no guarding or rebound  
GJ tube site c/d/i
GU:  foley in plce
EXTR:no c/c/e 2+pulses  
DERM: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  

DISCHARGE DAY EXAM:
Tm 98.7, HR ___, BP 100s-140s/50s-80s, RR 18, SpO2 97-100% 
RA
GEN:  NAD, sitting in bed, then walking w/ walker with ___
HEENT:  no conjunctival injection. PERRL. No scleral icterus. 
Moist mucous membranes.
CV:  RRR, soft systolic murmur
PULM:  CTAB with mild left lower lobe crackles
ABD:  normal bowel sounds, soft, nondistended, nontender to 
palpation, GJ tube site is c/d/I.
EXT: no edema, warm and well perfused
SKIN: no rashes or lesions
GU: foley catheter in place draining clear yellow urine
NEURO:  not oriented to person or place. Cannot name his 
children which is off of his baseline per son who is present on 
exam.  Face is symmetric, speech is fluent.
PSYCH: calm and cooperative

 
Pertinent Results:
___ 11:43AM   GLUCOSE-97 UREA N-16 CREAT-0.9 SODIUM-134 
POTASSIUM-4.4 CHLORIDE-97 TOTAL CO2-23 ANION GAP-18
___ 11:43AM   estGFR-Using this
___ 11:43AM   WBC-7.8 RBC-3.40* HGB-10.3* HCT-31.2* MCV-92 
MCH-30.3 MCHC-33.0 RDW-15.1 RDWSD-51.0*
___ 11:43AM   NEUTS-68.2 ___ MONOS-9.1 EOS-2.7 
BASOS-0.6 IM ___ AbsNeut-5.30 AbsLymp-1.48 AbsMono-0.71 
AbsEos-0.21 AbsBaso-0.05
___ 11:43AM   PLT COUNT-310
___ 11:04AM URINE  HOURS-RANDOM
___ 11:04AM URINE  HOURS-RANDOM
___ 11:04AM URINE  UHOLD-HOLD
___ 11:04AM URINE  GR HOLD-HOLD
___ 11:04AM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 11:04AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 11:04AM URINE  RBC-6* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-<1
___ 11:04AM URINE  WBCCLUMP-FEW MUCOUS-OCC
============================
Labs ___ at rehab
Ferritin = 585.1
Free T4 = 1.02
TSH = 10.39
Albumin = 3.7
Last INR = 2.4
HCT = 29.8

KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in
MCG/ML
                     
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 07:05AM BLOOD WBC-4.4 RBC-3.61* Hgb-10.9* Hct-32.9* 
MCV-91 MCH-30.2 MCHC-33.1 RDW-14.6 RDWSD-49.4* Plt ___
___ 07:05AM BLOOD ___
___ 07:05AM BLOOD Glucose-80 UreaN-11 Creat-0.8 Na-137 
K-4.1 Cl-100 HCO3-25 AnGap-16

 
Brief Hospital Course:
MEDICAL DECISION MAKING/Assessment

The patient is a ___ year old male with h/o traumatic brain 
injury, previous intraparenchymal hemorrhage, h/o urinary 
obstruction  now presenting with recurrent urinary obstruction 
and UTI.  He has been treated for this and course has been 
complicated by delirium, likely from the UTI and from being in 
the hospital.  He and his family are ready for him to go back to 
rehab where they feel that he makes the most progress.  He has 
been doing well with ___ here, walking the halls with his walker 
and ___ assistance.  He was determined medically suitable to 
return to rehab on ___.
.
URINARY OBSTRUCTION
- s/p coude foley placement in ED
He has been failing voiding trials at rehab.  Discussed with 
inpatient and outpatient urology staff; needs
urodynamic studies, cannot be done as inpatient., although his 
symptoms are likely from BPH  I have been emailed by his 
urologist Dr ___ - that he hould be on both 
tamsulosin and finasteride; finasteride has
been started but he is not able to swallow tamsulosin because he 
struggles with capsules which should not be crushed in tube 
feeds.  Will set up f/u with Dr ___:  ___, see below for 
appointment times

Delirium:  Mild, likely due to change in environment, ? UTI, 
continue frequent reorientation.

? Ca-UTI - patient without fevers; had suprapubic tenderness 
initially but this may have been from bladder distension.  
Ciprofloxacin can contribute to delirium in the elderly, so will 
finish course of antibiotics with cefpodoxime.  Will treat for 
one week to finish ___

TBI/Seizures:
continued keppra

Nutrition:  saw nutrition while here, was eating 50-75% of 
meals.  Per nutrition recs, should still continue tube feeds as 
follows:
- Encourage PO intake
- Supplements: choc Ensure TID
- Tube feed recommendation: Jevity 1.5 @ 50 mL/hr x12 hours (6pm
to 6am)
- No residual checks w/ J-tube, monitor tolerance via abd exam,
bowel movements, & patient complaints
- Monitor lytes, replete prn
- Monitor weight closely.

HTN: - continue lisinopril

SUBCLINICAL HYPOTHYROIDISM: - free T4 WNL
- no plan for treatment for now, TSH 4.7.  This may be sick 
euthyroid but should be followed by PCP as pt recovers from 
infection.

GERD/DYSPHAGIA
- continue PPI bid
.
ATRIAL FIBRILLATION on Coumadin; had recent head ct that did not 
show hemorrhage while on Coumadin (___), continue at 6 mg a day, 
which appears to be his dose at rehab.  INR on discharge: 2.2
.
ANEMIA: 
Elevated ferritin c/w ACD - unclear what chronic illness is 
driving this

TRANSITIONAL ISSUE:
- ELEVATED TSH: likely sick euthyroid vs. subclinical 
hypothyroidism.  TSH on ___ was 4.7, free T3 1.3.  Please 
follow as pt recovers from infection
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Thiamine 100 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Omeprazole 20 mg PO BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
6. Multivitamins 1 TAB PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. LevETIRAcetam 500 mg PO BID 
9. Acetaminophen 325 mg PO Q4H:PRN pain 
10. melatonin 3 mg oral QHS 
11. Bisacodyl 10 mg PR QHS:PRN constipation 
12. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
13. Warfarin 6 mg PO DAILY16 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q4H:PRN pain 
2. Bisacodyl 10 mg PR QHS:PRN constipation 
3. Docusate Sodium 100 mg PO BID 
4. FoLIC Acid 1 mg PO DAILY 
5. LevETIRAcetam 500 mg PO BID 
6. Lisinopril 10 mg PO DAILY 
7. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 20 mg PO BID 
10. Tamsulosin 0.4 mg PO QHS 
11. Thiamine 100 mg PO DAILY 
12. Warfarin 6 mg PO DAILY16 
13. melatonin 3 mg oral QHS 
14. Finasteride 5 mg PO DAILY 
15. Cefpodoxime Proxetil 200 mg PO Q12H 
Take until ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1.  Urinary retention
2.  ? of UTI
3.  Delirium
4.  Traumatic brain injury
5.  Atrial fibrillation

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Mental Status: Confused - all of the time

 
Discharge Instructions:
You were admitted to the hospital after being unable to urinate. 
 We replaced your foley catheter and have arranged followup with 
a urologist.  It is possible that an enlarged prostate is the 
problem and so we have also started you on the medication 
finasteride.  If possible please also take tamsulosin (we 
realize that it has been difficult for you to swallow capsules)
You may have had an infection in the urine, so we are going to 
finish a course of antibiotics.  This will finish on ___
 
Followup Instructions:
___